US05808062
4-[4-Hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxyacetic acid:
To a tetrahydrofuran (10 ml) solution of 4-[4-hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxyacetic acid, ethyl ester (0.939 mmol) was added 1N sodium hydroxide (2.34 mmol). The reaction was stirred for 5 hrs, and then quenched by addition of water (10 ml) followed by acidification with conc. hydrochloric acid to pH 2. The aqueous layer was then extracted with 2× with ethyl acetate (100 ml). The combined organic extracts were then washed with saturated sodium chloride and dried over anhydrous magnesium sulfate. After evaporation of the solvents in vacuo, the crude product was purified by column chromatography (silica gel--230 to 400 mesh) using 94/5/1 methylene chloride/methanol/acetic acid as the eluent. m.p. 182°-183° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.76 (t, 2 H), 2.97 (t, 2 H), 4.78 (s, 2 H), 6.67 (s, 1 H), 7.06 (d, 2 H), 7.21 (m, 5 H), 7.75 (d, 2 H).

reactant | 4-[4-hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxyacetic acid, ethyl ester | 0.939 mmol | OC1=C(C(OC(=C1)C1=CC=C(OCC(=O)OCC)C=C1)=O)SCCC1=CC=CC=C1 | C23H22O6S
reactant | sodium hydroxide | 2.34 mmol, 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[4-Hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxyacetic acid | OC1=C(C(OC(=C1)C1=CC=C(OCC(=O)O)C=C1)=O)SCCC1=CC=CC=C1 | C21H18O6S
